* d:\esim_tut\files\clkdivider\clkdivider.cir

v1  rst gnd pulse(0 0 1m 1m 1m 160 160)
v2  clk gnd pulse(5 0 1m 1m 1m 20 40)
* u5  rst clk net-_u4-pad1_ net-_u4-pad2_ adc_bridge_2
* u1  rst plot_v1
* u2  clk plot_v1
* u6  net-_u4-pad3_ clko dac_bridge_1
* u3  clko plot_v1
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ clkdivider
a1 [rst clk ] [net-_u4-pad1_ net-_u4-pad2_ ] u5
a2 [net-_u4-pad3_ ] [clko ] u6
a3 [net-_u4-pad1_ ] [net-_u4-pad2_ ] [net-_u4-pad3_ ] u4
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             clkdivider, NgSpice Name: clkdivider
.model u4 clkdivider(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rst)
plot v(clk)
plot v(clko)
.endc
.end
